US06326510B1
(b) 4-Allyloxycarbonyl benzoic acid
17.2 g (90.5 mmol) of allyl 4-formylbenzoate, 24 g (230 mmol) of malonic acid, 8 ml of piperidione and 100 ml of pyridine are introduced into a round-bottomed flask. The reaction medium is heated at 100° C. for six hours and then evaporated to dryness. The residue is taken up in water and dichloromethane and acidified to pH 1, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The solid obtained is triturated from hexane, filtered off and dried. 16.7 g (80%) of 4-allyloxycarbonylbenzoic acid, with a melting point of 205-6° C., are collected.

reactant | allyl 4-formylbenzoate | 90.5 mmol, 17.2 g | C(=O)C1=CC=C(C(=O)OCC=C)C=C1 | C11H10O3
reactant | malonic acid | 230 mmol, 24 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidione | 8 ml | CCC1(C(=O)CCNC1=O)CC | C9H15NO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-Allyloxycarbonyl benzoic acid | C(C=C)OC(=O)C1=CC=C(C(=O)O)C=C1 | C11H10O4
